US07973012B2
(2) Preparation of (1S)-1-[5-[4-(2-aminoethyl)benzyl]-2-acetoxy-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-acetyl-D-glucitol
To a chloroform solution (80 mL) of (1S)-1-[5-[4-(2-tert-butoxycarbonylaminoethyl)benzyl]-2-acetoxy-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-acetyl-D-glucitol was added trifluoroacetic acid (23 mL), and the mixture was stirred for 1.5 hours at room temperature. The solvent was evaporated under reduced pressure to obtain a residue. Thus obtained residue was diluted with chloroform, and washed with a saturated sodium bicarbonate aqueous solution and brine. This solution was dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain the title compound (4.67 g, quant.) as a colorless powder.

reactant | (1S)-1-[5-[4-(2-tert-butoxycarbonylaminoethyl)benzyl]-2-acetoxy-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-acetyl-D-glucitol | C(C)(C)(C)OC(=O)NCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)OC(C)=O)C)C=C1 | C37H47NO13
reactant | trifluoroacetic acid | 23 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | (1S)-1-[5-[4-(2-aminoethyl)benzyl]-2-acetoxy-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-acetyl-D-glucitol | 4.67 g | NCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)OC(C)=O)C)C=C1 | C32H39NO11
